US06417202B1
2,4-Dimethyl-3-trifluoroacetyl-1H-pyrrole
According to the literature procedure (Chiswell, B. Inorganica Chimica Acta. 1972, 629), a mixture of anti-pyruvic aldehyde 1-oxime (1.3 g, 15 mmol), 1,1,1-trifluoro-2,4-pentadione (1.85 mL, 15 mmol), glacial acetic acid (12 mL) and H2O (3.0 mL) was stirred vigorously at room temperature. To this flask, zinc dust (3 g) was added slowly keeping the temperature below 60° C. After addition, the resulting brown solution was heated under reflux condition for 2 hours. After cooling down to room temperature, the reaction mixture was basified by an addition of 2 M aqueous NaOH, then filtered. The filtrate was extracted with CH2Cl2 (20 mL×3), the combined organic layer dried over MgSO4, and concentrated iii vacito. The residue was purified by flash chromatography (1-3:1 CH2Cl2-Hexane) to afford the subtitle compound (0.42 g, 15% yield) as an oil.

reactant | anti-pyruvic aldehyde 1-oxime | 15 mmol, 1.3 g | CC(=O)/C=N/O | C3H5NO2
reactant | 1,1,1-trifluoro-2,4-pentadione | 15 mmol, 1.85 mL | CC(=O)CC(=O)C(F)(F)F | C5H5F3O2
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 2 M | [OH-].[Na+]
catalyst | zinc | 3 g | [Zn] | Zn
solvent | H2O | 3.0 mL | O | H2O
product | 2,4-Dimethyl-3-trifluoroacetyl-1H-pyrrole | 0.42 g, 15% yield | CC=1NC=C(C1C(C(F)(F)F)=O)C | C8H8F3NO
